US08426040B2
4′-bromo-N,N-dip-tolylbiphenyl-4-amine (7):
Di-p-tolylamine (6.0 g, 30.4 mmol), 4,4′-dibromobiphenyl (23.7 g, 76.0 mmol), sodium tert-butoxide (7.26 g, 91.2 mmol), and [1,1-bis(diphenylphosphino)ferrocene]palladium(II) dichloride (Pd(dppf)Cl2) (666 mg, 0.912 mmol, 3 mol %) were added to anhydrous toluene (about 250 ml) and degassed in argon for about 30 minutes. The resulting mixture was heated to about 80° C. for about 6 hours, after which a TLC analysis indicated that most of the di-p-tolylamine was consumed. After being cooled to RT, the mixture was poured into saturated aqueous sodium bicarbonate and extracted with 2 portions of ethyl acetate. The organic layers were pooled and washed with water and brine, then dried over MgSO4. After filtration the extract was concentrated to dryness on a rotary evaporator, then loaded onto silica gel. A flash column (gradient of 100% hexane to 1% methylene chloride in hexane) resulted in 9.4 g (72%) of a white solid Compound 7 confirmed by 1H NMR in CDCl3.

reactant | Di-p-tolylamine | 30.4 mmol, 6.0 g | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C)C | C14H15N
reactant | 4,4′-dibromobiphenyl | 76.0 mmol, 23.7 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | sodium tert-butoxide | 91.2 mmol, 7.26 g | CC(C)([O-])C.[Na+]
solvent | toluene | about 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4′-bromo-N,N-dip-tolylbiphenyl-4-amine | 9.4 g, 72% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C26H22BrN
